US07176242B2
N1-Isobutyl-L-alaninamide
Boc-L-alanine (5.0 g, 26.4 mmol), isobutylamine (2.9 mL, 29.1 mmol), diisopropylethylamine (11.5 mL, 66 mmol), and HOBt (3.6 g, 26.4 mmol) in anhydrous DMF (15 mL) is stirred 15 min. EDC is added, and the reaction is stirred at room temperature 16 h. The reaction is diluted in ethyl acetate and washed with 1 N hydrochloric acid, saturated sodium bicarbonate, and brine, dried (magnesium sulfate), filtered, and concentrated under reduced pressure. The residue is redissolved in 4N hydrochloric acid in dioxane (30 mL) and stirred for 2 h. The solution is concentrated under reduced pressure, dissolved in chloroform and washed with 1 N NaOH (aq). The aqueous layer is extracted with chloroform, and the pooled organics are dried (sodium sulfate), filtered, and concentrated under reduced pressure to give the title compound. ESI MS m/z 145.2 [M+H]+.

reactant | Boc-L-alanine | 26.4 mmol, 5.0 g | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)O | C8H15NO4
reactant | isobutylamine | 29.1 mmol, 2.9 mL | C(C(C)C)N | C4H11N
reactant | diisopropylethylamine | 66 mmol, 11.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBt | 26.4 mmol, 3.6 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC
product | N1-Isobutyl-L-alaninamide | C(C(C)C)NC([C@@H](N)C)=O | C7H16N2O
